US07521455B2
(2) Manufacture of 3-(4-hydroxyphenyl)-6-methoxy-2-methylpyrido[3,4-d]pyrimidin-4(3H)-one
6-chloro-3-(4-hydroxyphenyl)-2-methylpyrido[3,4-d]pyrimidin-4(3H)-one (300 mg, 1.04 mmol) was dissolved in dry methanol (15 mL) in a current of nitrogen, sodium methoxide (7 mmol) was added and the mixture was heated under reflux for 20 hours. After leaving to cool, acetic acid was added and the solvent was distilled off under reduced pressure. Distilled water was added to the residue, the solid precipitate was filtered off, and the title compound (259 mg, 88%) was thus obtained as a lavender color solid.

reactant | 6-chloro-3-(4-hydroxyphenyl)-2-methylpyrido[3,4-d]pyrimidin-4(3H)-one | 1.04 mmol, 300 mg | ClC1=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)O)C)C=N1 | C14H10ClN3O2
reactant | sodium methoxide | 7 mmol | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 15 mL | CO | CH4O
product | 3-(4-hydroxyphenyl)-6-methoxy-2-methylpyrido[3,4-d]pyrimidin-4(3H)-one | 259 mg, 88% | OC1=CC=C(C=C1)N1C(=NC2=C(C1=O)C=C(N=C2)OC)C | C15H13N3O3
